US03950353
N-(2-Dimethylaminoethyl)-N'-[2-((4-methyl-5-oxazolyl)methylthio)ethyl]thiourea
5-[(2-Aminoethyl)thiomethyl]-4-methyloxazole is reacted with 2-dimethylaminoethyl isothiocyanate by the procedure of Example 1 to give the title compound.

reactant | 5-[(2-Aminoethyl)thiomethyl]-4-methyloxazole | NCCSCC1=C(N=CO1)C | C7H12N2OS
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-((4-methyl-5-oxazolyl)methylthio)ethyl]thiourea | CN(CCNC(=S)NCCSCC1=C(N=CO1)C)C | C12H22N4OS2
